US07951819B2
N-(3-(2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyridin-7-yloxy)phenyl)-3-(trifluoromethoxy)benzenesulfonamide (CJS 3691)
Method K was used with 7-(3-aminophenoxy)-1H-imidazo[4,5-b]pyridin-2(3H)-one and 3-(trifluoromethoxy)benzenesulfonyl chloride to afford the title compound as an off-white solid (51 mg, 84%). 1H-NMR (δ, ppm, DMSO-d6): 6.20 (br s, 1H, HPy,5), 6.78 (s, 1H, Harom), 6.86 (d, 1H, Harom, J=7.5 Hz), 6.98 (d, 1H, Harom, J=7.4 Hz), 7.31-7.35 (m, 1H, Harom), 7.64-7.86 (m, 5H, Harom), 10.57 (s, 1H, NHSO2), 11.13 (s, 1H, NHPy3), 11.39 (s, 1H, NHPy2). 13C-NMR (δ, ppm, DMSO-d6): 106.18, 110.92, 113.71, 115.35, 116.48, 118.88, 121.88, 125.77, 125.83, 130.96, 131.93, 138.77, 141.03, 141.15, 144.12, 147.19, 148.23, 154.15, 154.99. HRMS (EI): m/z [M+H] calcd for C19H14F3N4O5S: 467.0637; found: 467.0644.

reactant | 7-(3-aminophenoxy)-1H-imidazo[4,5-b]pyridin-2(3H)-one | NC=1C=C(OC2=C3C(=NC=C2)NC(N3)=O)C=CC1 | C12H10N4O2
reactant | 3-(trifluoromethoxy)benzenesulfonyl chloride | FC(OC=1C=C(C=CC1)S(=O)(=O)Cl)(F)F | C7H4ClF3O3S
product | N-(3-(2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyridin-7-yloxy)phenyl)-3-(trifluoromethoxy)benzenesulfonamide | 51 mg, 84% | O=C1NC=2C(=NC=CC2OC=2C=C(C=CC2)NS(=O)(=O)C2=CC(=CC=C2)OC(F)(F)F)N1 | C19H13F3N4O5S
